US03957997
A mixture of 3-methoxy-2(1H)-pyridone (12.5 g., 0.10 moles), potassium hydroxide (8.0 g., 0.12 moles) and ethyl iodide (31.2 g., 0.02 moles) in 200 ml. ethanol is heated at reflux for 4 hours. Proceeding as previous preparations affords 1-ethyl-3-methoxy-2(1H)-pyridone as a clear yellow oil (14.1 g., 92%).

reactant | 3-methoxy-2(1H)-pyridone | 0.10 moles, 12.5 g | COC=1C(NC=CC1)=O | C6H7NO2
reactant | potassium hydroxide | 0.12 moles, 8.0 g | [OH-].[K+]
reactant | ethyl iodide | 0.02 moles, 31.2 g | C(C)I | C2H5I
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-3-methoxy-2(1H)-pyridone | C(C)N1C(C(=CC=C1)OC)=O | C8H11NO2
